US04022897
When a mixture of 189.0 g of 2-amino-5-bromo-2-pyridinol and 130.0 g of methyl 2-aminocrotonate is heated for 4 hours at an internal temperature of about 150°, a solid reaction product is formed. This solid is suspended in 2 liters of chloroform and 240 ml of water, and 20% aqueous acetic acid is added to adjust the aqueous phase to pH 5.5. The chloroform solution is separated, washed with saturated aqueous sodium chloride, dried, and concentrated to give 180.5 g of 7-bromo-9-hydroxy-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one.

reactant | 2-amino-5-bromo-2-pyridinol | 189.0 g | NC1(NC=C(C=C1)Br)O | C5H7BrN2O
reactant | methyl 2-aminocrotonate | 130.0 g | N/C(/C(=O)OC)=C\C | C5H9NO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | chloroform | 2 liters | C(Cl)(Cl)Cl | CHCl3
solvent | water | 240 ml | O | H2O
product | 7-bromo-9-hydroxy-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 180.5 g | BrC=1C=C(C=2N(C(C=C(N2)C)=O)C1)O | C9H7BrN2O2
